US07842758B2
4-Bromo-7-(N,N-dihexylamino)benzo[c][1,2,5]thiadiazole
4,7-Dibromobenzo[c][1,2,5]thiadiazole (0.500 g, 1.70×10−3 mol), N,N-dihexylamine (0.50 ml, 2.1×10−3 mol), Pd2dba3 (45 mg, 4.9×10−5 mol), 2-(di-t-butylphosphino)biphenyl (30 mg, 1.0×10−4 mol), NaOt-Bu (0.242 g, 2.5×10−3 mol), toluene (4.0 ml) and DMF (0.40 ml) were added to a reaction vial. The reaction mixture was stirred at 160° C. for 15 min under microwave irradiation. After the reaction mixture was filtered and the solvent was evaporated, the residue was chromatographed on silica gel with 1:1 hexane:CH2Cl2. Yield=0.271 g (40% based on 0.500 g of 4,7-dibromobenzo[c][1,2,5]thiadiazole). 1H NMR (250 MHz, CDCl3): δ 7.59 (d, 1H, J=8.4 Hz, Ph-H), 6.31 (d, 1H, J=8.5 Hz, Ph-H), 3.68 (t, 4H, J=7.7 Hz, —NCH2), 1.51-1.75 (m, 4H, —NCH2CH2—), 1.20-1.44 (m, 12H, —CH2—), 0.89 (t, 6H, J=6.7 Hz, —CH3). CI MS m/z: 398.125 ((M+H)+) (calcd 398.127).

reactant | 4,7-Dibromobenzo[c][1,2,5]thiadiazole | 1.70×10−3 mol, 0.500 g | BrC1=CC=C(C2=NSN=C21)Br | C6H2Br2N2S
reactant | N,N-dihexylamine | 2.1×10−3 mol, 0.50 ml | C(CCCCC)NCCCCCC | C12H27N
reactant | 2-(di-t-butylphosphino)biphenyl | 1.0×10−4 mol, 30 mg | C(C)(C)(C)P(C1=C(C=CC=C1)C1=CC=CC=C1)C(C)(C)C | C20H27P
reactant | NaOt-Bu | 2.5×10−3 mol, 0.242 g | CC(C)(C)[O-].[Na+]
catalyst | Pd2dba3 | 4.9×10−5 mol, 45 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | DMF | 0.40 ml | CN(C)C=O | C3H7NO
solvent | toluene | 4.0 ml | C1(=CC=CC=C1)C | C7H8
product | 4-Bromo-7-(N,N-dihexylamino)benzo[c][1,2,5]thiadiazole | BrC1=CC=C(C2=NSN=C21)N(CCCCCC)CCCCCC | C18H28BrN3S
